US07217702B2
2-{2-[1(S)-Hydroxy-3(R)-methyl-1-cyclohexyl]ethyn-1-yl}-N6-(3-pentyl)adenine.
Using the representative procedure for ribose cleavage above 2-{2-[1(S)-hydroxy-3(R)-methyl-1-cyclohexyl]ethyn-1-yl}-N6-(3-pentyl)adenosine (1.03 g) gave the product as a white solid: yield 0.725 g, 98%. LRMS ESI (M+H+) 342.2.

reactant | ribose | O=C[C@H](O)[C@H](O)[C@H](O)CO | C5H10O5
reactant | 2-{2-[1(S)-hydroxy-3(R)-methyl-1-cyclohexyl]ethyn-1-yl}-N6-(3-pentyl)adenosine | 1.03 g | O[C@@]1(C[C@@H](CCC1)C)C#CC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)NC(CC)CC | C24H35N5O5
product | 2-{2-[1(S)-Hydroxy-3(R)-methyl-1-cyclohexyl]ethyn-1-yl}-N6-(3-pentyl)adenine | O[C@@]1(C[C@@H](CCC1)C)C#CC1=NC(=C2NC=NC2=N1)NC(CC)CC | C19H27N5O
